US08084449B2
To a solution of N-({3′-[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-ylmethyl]-6-methyl-3-biphenylyl}methyl)-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide (390 mg, 0.526 mmol) in ethanol 95 mL) was added 1N HCl (0.526 mL, 0.526 mmol). The mixture was stirred at RT for 2 h. It was concentrated under vacuum. The residue was re-dissolved in ethanol and it was evaporated (this was repeated three times). Then a 1:1 mixture of DCM:hexane (5 mL) was added and concentrated (this was repeated twice). Finally, the solid, a white material, was dried under high vacuum for two days to give N-({3′-[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-ylmethyl]-6-methyl-3-biphenylyl}methyl)-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide hydrochloride as a solid (404 mg, 99%). LC-MS m/z 742 (M+H)+, 0.79 min (ret time).

reactant | N-({3′-[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-ylmethyl]-6-methyl-3-biphenylyl}methyl)-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide | 0.526 mmol, 390 mg | [C@@H]12N(C[C@@H](NC1)C2)CC=2C=C(C=CC2)C2=CC(=CC=C2C)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C(=C1C(=NC2CC)N(N=C1)CC)NC1CCOCC1 | C43H51N9O3
reactant | HCl | 0.526 mmol, 1N, 0.526 mL | Cl | ClH
solvent | ethanol | 95 mL | C(C)O | C2H6O
product | N-({3′-[(1S,4S)-2,5-diazabicyclo[2.2.1]hept-2-ylmethyl]-6-methyl-3-biphenylyl}methyl)-N′-{[1,6-diethyl-4-(tetrahydro-2H-pyran-4-ylamino)-1H-pyrazolo[3,4-b]pyridin-5-yl]methyl}-2,6-pyridinedicarboxamide hydrochloride | 404 mg, 99% | Cl.[C@@H]12N(C[C@@H](NC1)C2)CC=2C=C(C=CC2)C2=CC(=CC=C2C)CNC(=O)C2=NC(=CC=C2)C(=O)NCC=2C(=C1C(=NC2CC)N(N=C1)CC)NC1CCOCC1 | InChI=1S/C43H51N9O3.ClH/c1-4-37-35(40(48-31-14-16-55-17-15-31)36-24-47-52(5-2)41(36)50-37)23-46-43(54)39-11-7-10-38(49-39)42(53)45-21-28-13-12-27(3)34(19-28)30-9-6-8-29(18-30)25-51-26-32-20-33(51)22-44-32;/h6-13,18-19,24,31-33,44H,4-5,14-17,20-23,25-26H2,1-3H3,(H,45,53)(H,46,54)(H,48,50);1H/t32-,33-;/m0./s1
